US07906654B2
2-(4-Bromo-2-chlorophenyl)-2-methylpropanenitrile
To a stirred solution of 2-(4-bromo-2-chlorophenyl)acetonitrile (1.11 g, 4.82 mmol) in anhydrous DMF (7.6 mL) is added methyl iodide (0.63 mL, 10.1 mmol). The solution is cooled to 0° C. and sodium hydride (60% susp. in oil, 0.63 g, 15.7 mmol) is added in 5 portions over 1 h. The reaction mixture is then left stirring to slowly warm up to room temperature for 18 h. The solution turned to a thick and brown orange paste. Water (20 mL) is then slowly added and the solution extracted with a 3:1 solution of hexane/Et2O (3×25 mL). The organic layer is washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude product is purified by flash chromatography (eluent: Hex/EtOAc 9:1 to 8:2) to provide the expected product 2-(4-bromo-2-chlorophenyl)-2-methylpropanenitrile (0.79 g, 63%). 1H NMR (300 MHz, CHLOROFORM-D): δ 7.61 (1H, d, J=2.1 Hz), 7.43 (1H, dd, J=8.5, 2.1 Hz), 7.34 (1H, d, J=8.6 Hz), 1.85 (6H, s).

reactant | 2-(4-bromo-2-chlorophenyl)acetonitrile | 4.82 mmol, 1.11 g | BrC1=CC(=C(C=C1)CC#N)Cl | C8H5BrClN
reactant | methyl iodide | 10.1 mmol, 0.63 mL | CI | CH3I
reactant | sodium hydride | 15.7 mmol, 0.63 g | [H-].[Na+]
reactant | Water | 20 mL | O | H2O
reactant | DMF | 7.6 mL | CN(C)C=O | C3H7NO
product | 2-(4-bromo-2-chlorophenyl)-2-methylpropanenitrile | 0.79 g, 63% | BrC1=CC(=C(C=C1)C(C#N)(C)C)Cl | C10H9BrClN
